US04056540
1. cis-Methyl 6-chloro-4-phenyl-1,3-benzodioxan-2-carboxylate
To an ether solution of cis-6-chloro-4-phenyl-1,3-benzodioxan-2-carboxylic acid (2.14 g, 7.36 mmoles), chilled in an ice bath, was added an ethereal solution of diazomethane until the yellow color of the diazomethane was no longer discharged. The solution was stirred in the ice bath for 10 minutes at room temp. for 10 minutes, and finally at 35° for 15 minutes. The ether solution was washed with dil.NaHCO3 solution (2 portions), water (2 portions), and saturated brine (1 portion), and dried over anhydrous Na2SO4. The solvent was evaporated to yield a solid which was recrystallized from benzene-Skellysolve B (essentially n-hexane). The yield was 1.71 g (76%); m.p. 129.5°-131°. NMR (CDCl3), β6.6 (d, 1H, C(5)H, cis); 5.65 ppm (s, 1H, C(2)H, cis).

reactant | cis-6-chloro-4-phenyl-1,3-benzodioxan-2-carboxylic acid | 7.36 mmoles, 2.14 g | ClC1=CC2=C(O[C@@H](O[C@@H]2C2=CC=CC=C2)C(=O)O)C=C1 | C15H11ClO4
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | ether | CCOCC | C4H10O
product | cis-Methyl 6-chloro-4-phenyl-1,3-benzodioxan-2-carboxylate | ClC1=CC2=C(O[C@@H](O[C@@H]2C2=CC=CC=C2)C(=O)OC)C=C1 | C16H13ClO4
